US09079866B2
1-((4′-(2-Aminopyrimidin-5-yl)-3′-fluoro-[1,1′-biphenyl]-2-yl)sulfonyl)-3-(trifluoromethyl)azetidin-3-ol
The title compound was prepared using analogous conditions to those described in Example 6 utilizing 1-((2-bromophenyl)sulfonyl)-3-(trifluoromethyl)azetidin-3-ol and 5-(2-fluoro-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)pyrimidin-2-amine. MS (ESI): mass calcd. for C20H16F4N4O3S, 468.09; m/z found, 469.0 [M+H]+. 1H NMR (600 MHz, DMSO-d6) δ 8.53-8.47 (d, J=1.4, 2H), 8.06-8.01 (dd, J=8.0, 1.3, 1H), 7.81-7.76 (m, 1H), 7.70-7.65 (m, 1H), 7.64-7.58 (m, 1H), 7.51-7.45 (m, 2H), 7.35-7.29 (dd, J=11.7, 1.8, 1H), 7.28-7.24 (dd, J=7.8, 1.7, 1H), 6.94 (s, 2H), 3.81-3.76 (d, J=9.3, 2H), 3.71-3.66 (m, 2H)

reactant | 1-((2-bromophenyl)sulfonyl)-3-(trifluoromethyl)azetidin-3-ol | BrC1=C(C=CC=C1)S(=O)(=O)N1CC(C1)(O)C(F)(F)F | C10H9BrF3NO3S
reactant | 5-(2-fluoro-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)pyrimidin-2-amine | FC1=C(C=CC(=C1)B1OC(C(O1)(C)C)(C)C)C=1C=NC(=NC1)N | C16H19BFN3O2
product | 1-((4′-(2-Aminopyrimidin-5-yl)-3′-fluoro-[1,1′-biphenyl]-2-yl)sulfonyl)-3-(trifluoromethyl)azetidin-3-ol | NC1=NC=C(C=N1)C1=C(C=C(C=C1)C1=C(C=CC=C1)S(=O)(=O)N1CC(C1)(O)C(F)(F)F)F | C20H16F4N4O3S
